US04496560
A solution of 2-benzhydryloxycarbonyl-3-[2-(2-t-butoxycarbonylamino-ethylthioacetamido)-thiazol-5-yl]-7-(3,4-dichlorophenylthio)-acetamido-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (1.7 g) in formic acid (50 cc) is heated at 50° C. for 30 minutes and then concentrated to dryness under reduced pressure (2 mm Hg; 0.27 kPa) at 40° C. The oil which remains is taken up in acetone (20 cc), which is concentrated to dryness under reduced pressure (40 mm Hg; 5.3 kPa) at 50° C.; this operation is repeated once more and the residue is then taken up in boiling acetone (20 cc). The mixture is filtered hot and the solid collected is washed with acetone (20 cc) and ethyl ether (20 cc), to give 3-[2-(2-aminoethylthioacetamido)-thiazol-5-yl]-2-carboxy-7-(3,4-dichlorophenylthio)-acetamido-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (1.15 g) in the form of a yellow solid.

reactant | 2-benzhydryloxycarbonyl-3-[2-(2-t-butoxycarbonylamino-ethylthioacetamido)-thiazol-5-yl]-7-(3,4-dichlorophenylthio)-acetamido-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 1.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)CC(=O)NC=1N2C(C(C2SCC1C1=CN=C(S1)NC(CCCNC(=O)OC(C)(C)C)=S)SC1=CC(=C(C=C1)Cl)Cl)=O | C40H39Cl2N5O6S4
solvent | formic acid | 50 cc | C(=O)O | CH2O2
product | 3-[2-(2-aminoethylthioacetamido)-thiazol-5-yl]-2-carboxy-7-(3,4-dichlorophenylthio)-acetamido-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 1.15 g | NCCCC(=S)NC=1SC(=CN1)C1=C(N2C(C(C2SC1)SC1=CC(=C(C=C1)Cl)Cl)=O)NC(CC(=O)O)=O | C22H21Cl2N5O4S4
